US04632930
To a solution of 2.50 g (11.4 mmol) of 5-ethyl-4-(4-methylthiophenyl)oxazole and 2.0 ml (13.3 mmol) of tetramethylethylenediamine in 50 ml of tetrahydrofuran at -78° C. was added dropwise 12.6 ml (20.2 mmol) of n-butyl lithium (1.6M in hexane). The resulting solution was stirred for 1 hour at -78° C., and then 3.5 ml (31 mmol) of hexafluoroacetone was added dropwise. The mixture was stirred for 1 hour at -78° C. and then quenched by the rapid addition of 30 ml of sodium bicarbonate solution. After warming to 25° C., the organic and aqueous phases were separated and the aqueous phase was extracted with tetrahydrofuran. The combined organic phases were then washed with brine, dried over anhydrous potassium carbonate, filtered, and concentrated. The residue was dissolved in a mixture of 100 ml of ethanol and 20 ml of 4N hydrochloric acid; and the solution was stirred overnight at 25° C. The solution was concentrated in vacuo to remove the ethanol and the resulting aqueous mixture was extracted with diethyl ether. The combined organic phases were washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude product was purified by flash chromatography on silica gel (elution-benzene) to provide 3.28 g of 5-ethyl-4-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)oxazole-2-methanol as a light orange oil.

reactant | 5-ethyl-4-(4-methylthiophenyl)oxazole | 11.4 mmol, 2.50 g | C(C)C1=C(N=CO1)C1=CC=C(C=C1)SC | C12H13NOS
reactant | tetramethylethylenediamine | 13.3 mmol, 2.0 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 20.2 mmol, 1.6M, 12.6 ml | C(CCC)[Li]
reactant | hexafluoroacetone | 31 mmol, 3.5 ml | FC(C(=O)C(F)(F)F)(F)F | C3F6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-ethyl-4-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)oxazole-2-methanol | 3.28 g | C(C)C1=C(N=C(O1)C(O)(C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)SC | C15H13F6NO2S
